US07678783B2
To a suspension of methyl 2-amino-2-(fluoromethyl)-3-(3-hydroxyphenyl)propanoate (1 g, 3.8 mmol) in DMF/tert-butanol (1:1, 2.6 mL) was added a solution of di-tert-butyl dicarbonate (1.6 g, 7.6 mmol) in DMF/tert-butanol (0.9 mL) followed by sodium bicarbonate (1.1 g, 13.3 mmol). The reaction was heated to 60° C. for 1.5 h, quenched with 10% citric acid solution and extracted with EtOAc. Drying, solvent evaporation and flash chromatography (silica gel, 0-25% EtOAc/hexanes) gave methyl 2-tert-butoxycarbonylamino-2-(fluoromethyl)-3-(3-hydroxyphenyl)propanoate. 1H NMR (400 MHz, CDCl3) δ 7.13 (t, J=7.9 Hz, 1H), 6.72 (dd, J=8 Hz, J=2.2 Hz, 1H), 6.63 (d, J=7.6 Hz, 1H), 6.58 (s, 1H), 5.36 (bs, 1H), 5.26 (bs, 1H), 5.07-4.64 (ABX, J=47 Hz, J=8 Hz, 2H), 3.78 (s, 3H), 3.36 (d, J=13 Hz, 1H), 2.96 (d, J=13 Hz, 1H), 1.46 (s, 9H).

reactant | methyl 2-amino-2-(fluoromethyl)-3-(3-hydroxyphenyl)propanoate | 3.8 mmol, 1 g | NC(C(=O)OC)(CC1=CC(=CC=C1)O)CF | C11H14FNO3
reactant | di-tert-butyl dicarbonate | 7.6 mmol, 1.6 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | sodium bicarbonate | 13.3 mmol, 1.1 g | C([O-])(O)=O.[Na+]
solvent | DMF tert-butanol | 2.6 mL | CN(C)C=O.C(C)(C)(C)O
solvent | DMF tert-butanol | 0.9 mL | CN(C)C=O.C(C)(C)(C)O
product | methyl 2-tert-butoxycarbonylamino-2-(fluoromethyl)-3-(3-hydroxyphenyl)propanoate | C(C)(C)(C)OC(=O)NC(C(=O)OC)(CC1=CC(=CC=C1)O)CF | C16H22FNO5
